US07897624B2
Step a: 4-(4-Bromo-2-fluoro-phenylamino)-3-chloro-1-methyl-5-nitro-1H-pyridin-2-one
A suspension of 4-(4-Bromo-2-fluoro-phenylamino)-1-methyl-5-nitro-1H-pyridin-2-one (451 mg, 1.323 mol), synthesized using the same procedures as for the synthesis of 4-(2-Fluoro-4-iodophenylamino)-5-nitropyridin-2(1H)-one, and NCS (286 mg, 2.14 mmol) in dry DMF (13 mL) was heated to 50° C. The solution became clear in 5 minutes, and the solution turned into light orange. The heating was continued over the 48 hours. At this time, LC/MS indicated there was 77% of the title product in the reaction mixture. The heating temperature was then raised to 70° C. and kept at that temperature for additional 4 hours. Water was added until the yellow precipitate formed. The stirring was continued at r.t. for 30 min. The precipitate was then filtered, washed with water (5 mL) and dried under high vacuum overnight. The title compound was used for the next reaction without further purification. (424 mg, 85% yield).

reactant | 4-(4-Bromo-2-fluoro-phenylamino)-1-methyl-5-nitro-1H-pyridin-2-one | 1.323 mol, 451 mg | BrC1=CC(=C(C=C1)NC1=CC(N(C=C1[N+](=O)[O-])C)=O)F | C12H9BrFN3O3
reactant | 4-(2-Fluoro-4-iodophenylamino)-5-nitropyridin-2(1H)-one | FC1=C(C=CC(=C1)I)NC1=CC(NC=C1[N+](=O)[O-])=O | C11H7FIN3O3
reactant | NCS | 2.14 mmol, 286 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-2-fluoro-phenylamino)-3-chloro-1-methyl-5-nitro-1H-pyridin-2-one | 77% | BrC1=CC(=C(C=C1)NC1=C(C(N(C=C1[N+](=O)[O-])C)=O)Cl)F | C12H8BrClFN3O3
